US05223529
The procedure is similar to that described in Example 28, but starting with benzyl 2-anilinoacetate (3.6 g), 2-[3-(3-methylphenyl)ureido]acetic acid (3.1 g) and thionyl chloride (1.65 g). The product obtained is purified by chromatography on silica gel (0.063-0.200 mm; 60 g) contained in a column 2 cm in diameter [eluant: cyclohexane/ethyl acetate (50:50 by volume)], collecting 20-cc fractions. Fractions 5 to 9 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in acetonitrile, benzyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate (1.4 g), m.p. 140° C., is obtained.

reactant | benzyl 2-anilinoacetate | 3.6 g | N(C1=CC=CC=C1)CC(=O)OCC1=CC=CC=C1 | C15H15NO2
reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 3.1 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | thionyl chloride | 1.65 g | S(=O)(Cl)Cl | Cl2OS
product | benzyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate | 1.4 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(=O)OCC1=CC=CC=C1)=O | C25H25N3O4
